US07977351B2
2-{[(2-Diethylamino-ethyl)-methyl-amino]-methyl}-7H-furo[3,4-b]pyridin-5-one
In a process similar to that described in Preparation 8, 5-oxo-5,7-dihydro-furo[3,4-b]pyridine-2-carbaldehyde (110 mg, 0.68 mmol) and N,N-diethyl-N′-methylethylenediamine (109 μL, 0.68 mmol) are reacted to provide the title compound as white solid (120 mg, 64%).

reactant | 5-oxo-5,7-dihydro-furo[3,4-b]pyridine-2-carbaldehyde | 0.68 mmol, 110 mg | O=C1OCC2=NC(=CC=C21)C=O | C8H5NO3
reactant | N,N-diethyl-N′-methylethylenediamine | 0.68 mmol, 109 μL | C(C)N(CCNC)CC | C7H18N2
product | 2-{[(2-Diethylamino-ethyl)-methyl-amino]-methyl}-7H-furo[3,4-b]pyridin-5-one | 120 mg, 64% | C(C)N(CCN(C)CC1=CC=C2C(=N1)COC2=O)CC | C15H23N3O2
